US06812227B2
To a stirred solution of methyl 1-({[4-(2-butynyloxy)phenyl]sulfonyl}amino)cyclopentane carboxylate (5.5 g, 15.6 mmol) in methanol:THF (4:1, 100 ml) 10 N sodium hydroxide (15 ml) was added at room temperature. It was stirred for 16 h and evaporated to dryness in vacuo, the residue was dissolved in 100 mL water, pH adjusted to 7 with 5N hydrochloric acid solution. It was extracted with chloroform;methanol (3:1) washed with water, dried and concentrated to give 1-({[4-(2-butynyloxy)phenyl]sulfonyl}amino)cyclopentane carboxylic acid. Yield 4.5 g (86%); White solid, mp. 108-110° C. Electrospray Mass Spec 336 (M−H)−.

reactant | methyl 1-({[4-(2-butynyloxy)phenyl]sulfonyl}amino)cyclopentane carboxylate | 15.6 mmol, 5.5 g | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)NC1(CCCC1)C(=O)OC | C17H21NO5S
reactant | sodium hydroxide | 15 ml | [OH-].[Na+]
solvent | methanol THF | 10 N, 100 ml | CO.C1CCOC1
product | 1-({[4-(2-butynyloxy)phenyl]sulfonyl}amino)cyclopentane carboxylic acid | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)NC1(CCCC1)C(=O)O | C16H19NO5S
